US04130700
benzoyl peroxide;
t-butyl peroctoate; t-butyl peroxypivalate; lauroyl peroxide; 2,5-dimethyl-2,5-bis(2-ethylhexanoylperoxy)-hexane; acetyl peroxide; t-butyl peracetate; 2,5-dimethyl-2, 5-bis(benzoylperoxy) hexane; 1,1-bis(t-butylperoxy)-3,3,5-trimethyl-cyclohexane; 1,8 and 1,9-di-(t-butylperoxycarbonyl)heptadecane; ethylene-bis(4-t-butylazo-4-cyanoval-erate); di-t-butyl diperoxy-azelate; azobis-isobutyronitrile; 2-t-butylazo-2-cyanopropane; 1-t-butylzao-1-cyanocyclohexane; 2,2'-azo-bis-(2-methylvaleronitrile); di-t-butyl 4,4'-azobis-(4-cyanoperoxyvalerate); and di-t-butyldiperoxy-carbonate.

reactant | t-butyl peroxypivalate | C(C(C)(C)C)(=O)OOC(C)(C)C | C9H18O3
reactant | lauroyl peroxide | C(CCCCCCCCCCC)(=O)OOC(CCCCCCCCCCC)=O | C24H46O4
reactant | 2,5-dimethyl-2,5-bis(2-ethylhexanoylperoxy)-hexane | CC(C)(CCC(C)(OOC(C(CCCC)CC)=O)C)OOC(C(CCCC)CC)=O | C24H46O6
reactant | acetyl peroxide | C(C)(=O)OOC(C)=O | C4H6O4
reactant | t-butyl peracetate | C(C)(=O)OOC(C)(C)C | C6H12O3
reactant | 2,5-dimethyl-2, 5-bis(benzoylperoxy) hexane | CC(C)(CCC(C)(OOC(C1=CC=CC=C1)=O)C)OOC(C1=CC=CC=C1)=O | C22H26O6
reactant | 1,1-bis(t-butylperoxy)-3,3,5-trimethyl-cyclohexane | C(C)(C)(C)OOC1(CC(CC(C1)C)(C)C)OOC(C)(C)C | C17H34O4
reactant | 1,9-di-(t-butylperoxycarbonyl)heptadecane | C(C)(C)(C)OOC(=O)CCCCCCCCC(CCCCCCCC)C(=O)OOC(C)(C)C | C27H52O6
reactant | ethylene-bis(4-t-butylazo-4-cyanoval-erate) | C(CC(C(=O)[O-])CC(C)(N=NC(C)(C)C)C#N)C(C(=O)[O-])CC(C)(C#N)N=NC(C)(C)C
reactant | di-t-butyl diperoxy-azelate | C(CCCCCCCC(=O)OOC(C)(C)C)(=O)OOC(C)(C)C | C17H32O6
reactant | azobis-isobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 2-t-butylazo-2-cyanopropane | C(C)(C)(C)N=NC(C)(C)C#N | C8H15N3
reactant | 2,2'-azo-bis-(2-methylvaleronitrile) | N(=NC(C#N)(CCC)C)C(C#N)(CCC)C | C12H20N4
reactant | di-t-butyl 4,4'-azobis-(4-cyanoperoxyvalerate) | N(=NC(CCC(OOC(C)(C)C)=O)(C)C#N)C(CCC(=O)OOC(C)(C)C)(C)C#N | C20H32N4O6
reactant | di-t-butyldiperoxy-carbonate | C(C)(C)(C)OOC(=O)OOC(C)(C)C | C9H18O5
product | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
